US07129238B2
(RS)-(2,4-Bis-trifluoromethyl-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-2-(2,4-bis-trifluoromethyl-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide. Colorless gum.

reactant | (RS)-(2,4-Bis-trifluoromethyl-phenyl)-methoxy-acetic acid | FC(C1=C(C=CC(=C1)C(F)(F)F)C(C(=O)O)OC)(F)F | C11H8F6O3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-(2,4-bis-trifluoromethyl-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | FC(C1=C(C=CC(=C1)C(F)(F)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OC)(F)F | C19H14F6N2O2
